US05688803
8.9-Dichloro-5-hydroxy-3,4-dihydro-pyridazino[4,5-c]quinolin-4-one
1.76 g (0.0062 mol) of (RS)-7,8-dichloro-1,4-dihydroxy-1,3-dihydro-furo[3,4-c]quinolin-3-one were dissolved in 18 ml of dimethyl sulphoxide while gassing with argon. 0.31 g (0.0062 mol) of hydrazine hydrate was added thereto and the mixture was stirred at room temperature for 42 hrs. The suspension obtained was suction filtered and rinsed with ethyl acetate. Yield: 0.32 g (18%) of 8,9-dichloro-5-hydroxy-3,4-dihydro-pyridazino[4,5-c]quinolin-4-one as yellow crystals; m.p. >350° C.

reactant | (RS)-7,8-dichloro-1,4-dihydroxy-1,3-dihydro-furo[3,4-c]quinolin-3-one | 0.0062 mol, 1.76 g | ClC=1C(=CC=2C3=C(C(=NC2C1)O)C(OC3O)=O)Cl | C11H5Cl2NO4
reactant | hydrazine hydrate | 0.0062 mol, 0.31 g | O.NN
solvent | dimethyl sulphoxide | 18 ml | CS(=O)C | C2H6OS
product | 8.9-Dichloro-5-hydroxy-3,4-dihydro-pyridazino[4,5-c]quinolin-4-one | ClC=1C(=CC=2C3=C(C(=NC2C1)O)C(NN=C3)=O)Cl | C11H5Cl2N3O2
